US07534547B2
Ethanol (100 ml) and 10%-Pd/C (0.5 g) were added to 1-(tert-butoxycarbonyloxy)-4-benzyloxybenzene (10.0 g:33.3 mmol) of synthesized in the Example 13, and the mixture was subjected to hydrogenolysis under H2 atmosphere with stirring at a room temperature. After completion of the reaction, Pd/C was removed by filtration, and then the solvent was removed. The obtained residue was recrystallized from a mixed solvent of hexane/toluene to give 6.74 g (32.1 mmol) of 4-(tert-butoxycarbonyloxy)phenol.

reactant | 1-(tert-butoxycarbonyloxy)-4-benzyloxybenzene | 33.3 mmol, 10.0 g | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C18H20O4
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | Ethanol | 100 ml | C(C)O | C2H6O
product | 4-(tert-butoxycarbonyloxy)phenol | 32.1 mmol, 6.74 g | C(C)(C)(C)OC(=O)OC1=CC=C(C=C1)O | C11H14O4
